US04400386
To a mixture of 20 g (0.1 mole) of 6-fluoro-5-nitroquinaldine in 180 ml of ethyl acetate and 20 ml of acetic anhydride was added 3 g of ten percent palladium on charcoal. The mixture was hydrogenated with hydrogen gas at 50 psi on a Paar apparatus for 20 minutes. The theoretical amount of hydrogen (25 psi) was used. On cooling, the mixture solidified to a yellow mass. About 200 ml of ethanol was added, and the mixture was heated to dissolve the product. The catalyst was filtered off through celite, and the filtrate was evaporated to dryness, leaving a yellow solid. The solid was triturated with 200 ml of water and neutralized with ten percent sodium hydroxide solution. Filtration and drying provided white crystals of 5-acetamido-6-fluoroquinaldine, m.p. 232°-235° C. The structural assignment was confirmed by infrared spectral analysis.

reactant | 6-fluoro-5-nitroquinaldine | 0.1 mole, 20 g | FC=1C(=C2C=CC(=NC2=CC1)C)[N+](=O)[O-] | C10H7FN2O2
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethyl acetate | 180 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium on charcoal | 3 g | [Pd] | Pd
product | 5-acetamido-6-fluoroquinaldine | C(C)(=O)NC1=C2C=CC(=NC2=CC=C1F)C | C12H11FN2O
